US07598264B2
1-[(dimethylamino)carbonyl]-4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-3-yl acetate
4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide 2-oxide (10.3 g) was dissolved in 30 ml acetic anhydride and transferred to a 50 mL heavy walled pressure flask and sealed. The reaction was heated in a 100° C. oil bath overnight. The reaction was concentrated in vacuo. The remaining oil was dissolved in 5 mL EtOAc and purified on an Isco automated system affixed with a Biotage Flash 40 (L) (120 g silica) cartridge eluted with 0-10% MeOH in EtOAc over 20 minutes and hold at 10% for 40 minutes. The product eluted pure by HPLC/MS and NMR.

reactant | 4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide 2-oxide | 10.3 g | COC=1C=[N+](C(=C2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C)[O-] | C20H23N3O5
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[(dimethylamino)carbonyl]-4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-3-yl acetate | C(C)(=O)OC=1N=C(C=2CCN(C(C2C1OC)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C | C22H25N3O6
